US09216999B2
1-Cyclohexyl-7-{[2-(trimethylsilyl)ethoxy]methyl}-3,4-dihydro-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-2(7H)-one
5-(Aminomethyl)-N-cyclohexyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-amine (127 mg, 0.339 mmol) in dichloromethane was stirred with 1,1′-carbonyldiimidazole (65.9 mg, 0.407 mmol) at 60° C. for 2 hours. The reaction mixture was concentrated under reduced pressure and, after addition of water, extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the title compound as a colorless oil (93.2 mg, yield 69%).

reactant | 5-(Aminomethyl)-N-cyclohexyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-amine | 0.339 mmol, 127 mg | NCC1=C(C2=C(N=C1)N(C=C2)COCC[Si](C)(C)C)NC2CCCCC2 | C20H34N4OSi
reactant | 1,1′-carbonyldiimidazole | 0.407 mmol, 65.9 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-Cyclohexyl-7-{[2-(trimethylsilyl)ethoxy]methyl}-3,4-dihydro-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-2(7H)-one | 93.2 mg, yield 69% | C1(CCCCC1)N1C(NCC2=C1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)=O | C21H32N4O2Si
